US08912188B2
To a solution of methyl 2-(3,4-diaminophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (635 mg, crude) in HCl (1N, 150 mL) was added sodium nitrite (132 mg, 1.91 mmol) in water (1 mL) at 0° C. After stirring for 15 min at 0° C., the reaction mixture was extracted with dichloromethane (3×50 mL), dried over anhydrous sodium sulfate and concentrated under vacuum to give a residue, which was purified via silica gel chromatography (3% methanol in dichloromethane) to afford methyl 2-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as a yellow solid (140 mg).

reactant | methyl 2-(3,4-diaminophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 635 mg | NC=1C=C(C=CC1N)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C20H23N5O2
reactant | sodium nitrite | 1.91 mmol, 132 mg | N(=O)[O-].[Na+]
solvent | HCl | 1N, 150 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
product | methyl 2-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 140 mg | N1N=NC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N(C)C(C)C)C(=O)OC | C20H20N6O2
